US05922741
5-Amino-1-tert-butyl-3(4'-trifluoromethylphenyl)pyrazole-4-carboxamide
To a solution of 5-amino-1-tert-butyl-4-cyano-3-(4'-trifluoromethylphenyl)pyrazole (308 mg, 1.0 mmol) in ethanol (15 ml) was added 10M sodium hydroxide (3 ml) and the mixture heated at reflux for 72 h. On cooling, ethanol was removed under reduced pressure and water (50 ml) added. The resulting precipitate was collected by filtration, and washed with water (2×25 ml), to give the title compound (200 mg) as a colorless solid after recrystallisation from ethyl acetate m.p. 210-211°. δH (CDCl3) 1.67 (9H, s), 5.16 (2H, br s), 5.69 (2H, br s), and 7.71 (4H, s).

reactant | 5-amino-1-tert-butyl-4-cyano-3-(4'-trifluoromethylphenyl)pyrazole | 1.0 mmol, 308 mg | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F)C#N | C15H15F3N4
reactant | sodium hydroxide | 10M, 3 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-Amino-1-tert-butyl-3(4'-trifluoromethylphenyl)pyrazole-4-carboxamide | 200 mg | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F)C(=O)N | C15H17F3N4O
